US07238808B2
Prepared from commercially available 2-amino-5-bromopyridine (8.65 g, 50 mmol) and commercially available 4-chlorophenylboronic acid (12.08 g, 77 mmol) as described in example C.20 step 2. Obtained the crude 5-(4-chloro-phenyl)-pyridin-2-ylamine as an orange solid (89% pure).

reactant | 2-amino-5-bromopyridine | 50 mmol, 8.65 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | 4-chlorophenylboronic acid | 77 mmol, 12.08 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | 5-(4-chloro-phenyl)-pyridin-2-ylamine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)N | C11H9ClN2
